US05861529
0.68 cm3 of triethylamine and 1.06 g of di-tert-butyl dicarbonate are added to a solution of 1.95 g of N-methyl-S-triphenylmethyl-L-cysteine in 20 cm3 of dichloromethane. The reaction mixture is stirred for 20 hours at a temperature in the region of 20° C. and then washed with a 10% (w/v) aqueous citric acid solution and finally with distilled water. The organic phase is dried over magnesium sulphate, filtered and concentrated under reduced pressure. The beige solid obtained is purified by chromatography on silica [eluent: ethyl acetate]. 0.4 g of N-methyl-N-tert-butoxycarbonyl-S-triphenylmethyl-L-cysteine is obtained, the characteristics of which are the following:

reactant | triethylamine | 0.68 cm3 | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.06 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-methyl-S-triphenylmethyl-L-cysteine | 1.95 g | CN[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C23H23NO2S
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | N-methyl-N-tert-butoxycarbonyl-S-triphenylmethyl-L-cysteine | 0.4 g | CN([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C28H31NO4S
